US07585868B2
Synthesis of 3-(4-amino-3-methoxyphenyl)-1-isopropyl-1H-pyrazolo[3,4-d]pyrimidin-4-amine (BA20d).
A solution of tert-butyl 4-(4-amino-1-isopropyl-1H-pyrazolo[3,4-d]pyrimidin-3-yl)-2-methoxyphenylcarbamate (BA20) (20 mg, 0.05 mmol) in CH2Cl2, TFA, S(CH2)2, H2O (45:45:5:5) (1 mL) was stirred at room temperature for 15 minutes. NaHCO3 (2 mL) was added till reaction was alkaline. Reaction was extracted with H2O and CH2Cl2. Organic phases were combined, concentrated in vacuo and purified by RP-HPLC (MeCN:H2O:0.1% TFA) to yield BA20d.

reactant | tert-butyl 4-(4-amino-1-isopropyl-1H-pyrazolo[3,4-d]pyrimidin-3-yl)-2-methoxyphenylcarbamate | 0.05 mmol, 20 mg | NC1=C2C(=NC=N1)N(N=C2C2=CC(=C(C=C2)NC(OC(C)(C)C)=O)OC)C(C)C | C20H26N6O3
reactant | NaHCO3 | 2 mL | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | H2O | 1 mL | O | H2O
product | 3-(4-amino-3-methoxyphenyl)-1-isopropyl-1H-pyrazolo[3,4-d]pyrimidin-4-amine | NC1=C(C=C(C=C1)C1=NN(C2=NC=NC(=C21)N)C(C)C)OC | C15H18N6O
